Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Keflex
 
Attending: ___.
 
Chief Complaint:
Right Hand Pain after MVC
 
Major Surgical or Invasive Procedure:
1. Irrigation debridement preparation of wound over area of
    50 cm2.
2. Repair of flexor pollicis longus.
3. Repair of flexor digitorum profundus x4.
4. Repair of flexor digitorum superficialis x3.
5. Repair of flexor carpi radialis.
6. Repair and exploration of median nerve.
7. Neurolysis of median nerve.
8. Harvest of right sural nerve graft 5.5 cm.
9. Placement of 30 square cm vacuum-assisted closure.
10.Complex closure of 24 cm.
11.Repair of exit the extensor digitorum longus x2.
12.Carpal tunnel release.

 
History of Present Illness:
This is a ___ year old female involved in a high speed motor 
vehicle roll-over, + LOC who was extricated from vehicle and 
brought to the ___ ED via MedFlight.  Patient was found to 
have significant injury to her right upper extremity grossly and 
the hand surgery team was consulted. 

Upon interviewing the patient she report decreased sensation in 
her hand and severe pain.  She is unable to follow commands when 
asked to move her hand.

The patient denies any other pain in her abdomon, back, or neck. 
She denies any chest pain or shortness of breath.  She is 
converstational and appropriate given her injuries.  

 
Past Medical History:
(1) anxiety
(2) depression
(3) asthma

 
Social History:
___
Family History:
Non-contributary to trauma.
 
Physical Exam:
AF, VSS

HEENT: there is a 2 cm laceration in the L occiput.  Her face is
atraumatic.  No periorbital edema or palpable step-offs.  the
midface is stable
CV: RRR
Lungs: CTA-B, no palpable crepitus
Abd: Soft, NTND
Ext:
RUE: there is notable skin maceration at the dorsal wrist
approximately 8cm in diameter.  There is a 4cm diameter skin 
tear
at the middle finger MCP joint and an extensive injury to the
long finger along the medial aspect that extends to the tip 
which
is avulsed with visable tendon sheath below.  The volar aspect 
of
the hand has a deep laceration at the wrist with visable tendon
exposed.  She is not frankly bleeding and has strong palpable
radial and ulnar pulses.  Upon further exam  she has no 
sensation
in the median nerve distribution.  Her fingers are in extension
and she is unable to flex them.  She can abduct and extend her
thumb.  There are multiple other small lacerations over the 
volar
and dorsal aspect of her hand with gross debree. 

 
Pertinent Results:
___ 05:53PM   LACTATE-3.2*
___ 05:50PM   GLUCOSE-113* UREA N-13 CREAT-0.7 SODIUM-138 
POTASSIUM-3.4 CHLORIDE-106 TOTAL CO2-21* ANION GAP-14
___ 05:50PM   estGFR-Using this
___ 05:50PM   ALT(SGPT)-49* AST(SGOT)-68* ALK PHOS-40 TOT 
BILI-0.2
___ 05:50PM   LIPASE-37
___ 05:50PM   ALBUMIN-3.6 CALCIUM-8.5 PHOSPHATE-2.1* 
MAGNESIUM-1.7
___ 05:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:50PM URINE  UCG-NEGATIVE
___ 05:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 05:50PM   WBC-21.2* RBC-3.69* HGB-11.3* HCT-34.1* 
MCV-92 MCH-30.7 MCHC-33.2 RDW-13.6
___ 05:50PM   NEUTS-80* BANDS-3 LYMPHS-11* MONOS-6 EOS-0 
BASOS-0 ___ MYELOS-0
___ 05:50PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 05:50PM   PLT SMR-NORMAL PLT COUNT-314
___ 05:50PM   ___ PTT-21.6* ___
___ 05:50PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:50PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 05:50PM URINE  ___ BACTERIA-OCC 
YEAST-NONE ___

CT head - small L SAH in quadrigeminal cistern

CT c-spine - no fracture

CT abd/pelvis - no injuries

X-ray Right hand there is a non-displaced fracture at the base 
of
the middle phalynx of the right ring finger and a distal ulna
styloid fracture.

 
Brief Hospital Course:
Ms. ___ was taken from the emergency department directly 
to the operating room where she underwent extensive repair of 
the damage to her right wrist. These repairs consisted of 
irrigation debridement preparation of wound over area of 
50 cm2, repair of flexor pollicis longus, repair of flexor 
digitorum profundus x4,  repair of flexor digitorum 
superficialis x3, repair of flexor carpi radialis, repair and 
exploration of median nerve, neurolysis of median nerve, harvest 
of right sural nerve graft 5.5 cm, placement of 30 square cm 
vacuum-assisted closure, complex closure of 24 cm, Repair of 
exit the extensor digitorum x2, and carpal tunnel release. 

During the procedure, the patient had a wound vac placed in the 
dorsal side of her forearm.  The wound vac was changed every 
other day, with granulation tissue noted.  She will be 
discharged to home with wound vac services until her followup 
appointment with Dr. ___.

The patient regained tingling sensation in her fingers in the 
distribution of the median nerve, however, she did not regain 
normal sensation during this hospitalization.  She had trace 
movements of her fingers at the time of discharge.

The patient was taught to perform simple passive movements of 
her fingers.  She will likely begin aggressive OT/hand therapy 
after her followup appointment with Dr. ___.  She was fitted for 
an orthoplast dorsal blocking splint that will remain in place 
until at least her followup appointment.

Neuro: The patient initially received pain medications via PCA, 
and subsequently received a combination of PO pain meds with IV 
pain medications for breakthrough pain with good effect and 
adequate pain control.  In terms of the patient's small 
subarachnoid hemorrhage in the quadrigeminal cistern, she was 
followed closely by the Neurosurgery service until she was 
deemed clinically stable.  She will follow up as an outpatient 
with the neurosurgical service in 4 weeks time.
.
CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
.
Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
.
GI/GU: Patient was maintained on a regular diet during her stay 
as an inpatient. She was also started on a bowel regimen to 
encourage bowel movement. Intake and output were closely 
monitored. 
.
ID: The patient was treated with clindamycin during the duration 
of her admission.  The patient's temperature was closely watched 
for signs of infection.  Her wound was also monitored closely 
for any signs of infection.
.
Endocrine: The patient was stable from an endocrine standpoint.
.
Prophylaxis: The patient was encouraged to get up and ambulate 
as early as possible. 
.
At the time of discharge on ___, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled. 

 
Medications on Admission:
(1) albuterol
(2) prozac
(3) OCP
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain: Max 12 tabs/day or 4000 mg Tylenol. 
 
2. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain: Max 8 tabs/day. Each tab 
has 325mg Tylenol (max 4000mg/day).
Disp:*40 Tablet(s)* Refills:*0*
3. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day) for 30 days.
Disp:*90 Tablet(s)* Refills:*0*
4. Clindamycin HCl 150 mg Capsule Sig: Two (2) Capsule PO every 
eight (8) hours for 7 days.
Disp:*42 Capsule(s)* Refills:*0*
5. Nystatin 100,000 unit/mL Suspension Sig: Five (5) mL PO Q8H 
(every 8 hours) as needed for oral thrush.
Disp:*120 mL* Refills:*1*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right upper extremity traumatic avulsion
Posterior scalp laceration
small Left SAH in quadirgeminal cistern

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Followup Instructions:
___